US06472412B1
2-Fluoro-4-hydroxy-5-isopropyloxybenzoic acid (5.7 g) is dissolved in methanol (200 mL) and concentrated sulfuric acid (1 mL) and heated at 70° C. for 5 hours. The solution is concentrated and the resultant oil subjected to mplc on silica gel using petroleum ether:ethyl acetate (4:1 v/v) as eluent to give methyl-2-fluoro-4-hydroxy-5-isopropyloxybenzoate (5.7 g). [NMR (CDCl3) 7.38 (d, 1H, J=7 Hz), 6.67 (d, 1H, J=12 Hz), 4.85 (m, 1H), 3.9 (s, 3H), 1.3 (d, 6H, J=7 Hz)].

reactant | 2-Fluoro-4-hydroxy-5-isopropyloxybenzoic acid | 5.7 g | FC1=C(C(=O)O)C=C(C(=C1)O)OC(C)C | C10H11FO4
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 200 mL | CO | CH4O
product | methyl-2-fluoro-4-hydroxy-5-isopropyloxybenzoate | 5.7 g | COC(C1=C(C=C(C(=C1)OC(C)C)O)F)=O | C11H13FO4
